US07585885B2
N-Methyl-5-(2-oxopyrrolidin-1-yl)-N-propyl-isophthalamic acid methyl ester
Mix 5-iodo-N-methyl-N-propyl-isophthalamic acid methyl ester (220 mg, 0.61 mmol), 2-pyrrolidone (56 μL, 0.73 mmol), ethane-1,2-diamine (4 μL, 0.061 mmol), cesium carbonate (398 mg, 1.22) and copper (I) iodide (12 mg, 0.061 mmol) in 1,4-dioxane (4 mL). Heat the mixture to 110° C. for 1 h then stir at room temperature overnight. Dilute with dichloromethane and filter through a filtering agent. Concentrate and purify (silica gel chromatography, eluting with ethyl acetate and hexanes) to give the title compound (100 mg, 52%).

reactant | 5-iodo-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.61 mmol, 220 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)I)=O | C13H16INO3
reactant | 2-pyrrolidone | 0.73 mmol, 56 μL | N1C(CCC1)=O | C4H7NO
reactant | ethane-1,2-diamine | 0.061 mmol, 4 μL | C(CN)N | C2H8N2
reactant | cesium carbonate | 398 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 0.061 mmol, 12 mg | [Cu]I
product | N-Methyl-5-(2-oxopyrrolidin-1-yl)-N-propyl-isophthalamic acid methyl ester | 100 mg, 52% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N1C(CCC1)=O)=O | C17H22N2O4
